US04377580
To a mixture of 4,6-diaminoquinazoline hydrochloride (1.97 g), tripropylamine (2.60 g) and dry pyridine (20 ml) in an ice-bath was added dropwise during 10 minutes 2-ethylbutyryl chloride (1.75 g). The mixture was stirred for 3 hours at the same temperature. Crushed ice was added to the reaction mixture. The mixture was stirred for 5 minutes and concentrated under reduced pressure. After the addition of water (50 ml), sodium hydrogen carbonate (3.36 g) was added in small portions to the residue to give precipitates which were separated by filtration, washed with water and dried. The crude crystals were dissolved in a mixture of chloroform and methanol under heating. After insoluble materials were removed by filtration, the filtrate was concentrated under reduced pressure to give a residue, which was suspended in ethyl acetate. After stirring under heating, the suspension was filtered to give crystalline 4-amino-6-(2-ethylbutyramido)quinazoline (1.20 g).

reactant | 4,6-diaminoquinazoline hydrochloride | 1.97 g | Cl.NC1=NC=NC2=CC=C(C=C12)N
reactant | tripropylamine | 2.60 g | C(CC)N(CCC)CCC | C9H21N
reactant | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-ethylbutyryl chloride | 1.75 g | C(C)C(C(=O)Cl)CC | C6H11ClO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-amino-6-(2-ethylbutyramido)quinazoline | 1.20 g | NC1=NC=NC2=CC=C(C=C12)NC(C(CC)CC)=O | C14H18N4O
